US06316482B1
To a solution of 4-[(2-hydroxymethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (295 mg) in dichloromethane (8.0 ml) was added manganese(IV) oxide (196 mg) and the mixture was stirred at ambient temperature for 3 hours. The resulting mixture was filtered through a bed of celite and the filtrate was concentrated in vacuo. The residue was triturated with diethyl ether-n-hexane (1:3) to give 4-[(2-formylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (255 mg).

reactant | 4-[(2-hydroxymethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 295 mg | OCC=1NC2=CC=CC(=C2C1)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C37H45N5O6
solvent | dichloromethane | 8.0 ml | ClCCl | CH2Cl2
catalyst | manganese(IV) oxide | 196 mg | [O-2].[Mn+4].[O-2]
product | 4-[(2-formylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 255 mg | C(=O)C=1NC2=CC=CC(=C2C1)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C37H43N5O6
